US08629157B2
Step 1: Synthesis of 3-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-benzoic acid
To a solution of 3-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-benzoic acid methyl ester (870 mg, 2.23 mmol) in methanol (30 mL) a 2 M solution of sodium hydroxide in water (5 mL, 10 mmol) is added at room temperature. After 18 h solvent is evaporated in vacuo, the concentrate is cooled in an ice-bath and acidified to pH 2 using 1 N sulfuric acid. Precipitated white solid is filtered, washed with water and dried to give the title compound, ESI m/z 372 [M+H]+.

reactant | 3-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-benzoic acid methyl ester | 2.23 mmol, 870 mg | COC(C1=CC(=CC=C1)N1[C@@H](CCC1=O)C(NC1=NOC(=C1)C(C)(C)C)=O)=O | C20H23N3O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 10 mmol, 5 mL | O | H2O
solvent | methanol | 30 mL | CO | CH4O
product | 3-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-benzoic acid | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C(CC1)=O)C=1C=C(C(=O)O)C=CC1 | C19H21N3O5
